US06355653B1
7-(3,5-Bis-trifluoromethyl-phenyl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%): 412 (M+, 100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole and 3-[3,5-bis(trifluoromethyl)phenyl]acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | 3-[3,5-bis(trifluoromethyl)phenyl]acrylonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C=CC#N)(F)F | C11H5F6N
product | 7-(3,5-Bis-trifluoromethyl-phenyl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=CC=2N(C(=C1)N)N=C(N2)C=2OC=CC2)(F)F | C18H10F6N4O
